US08623871B2
Into a 25 ml 3-necked round bottom flask, was placed piperidine-2-carboxylic acid (975 mg, 7.56 mmol), HCHO (2.0 ml) and HCOOH (2.6 ml). The resulting solution was allowed to react, with stirring, for 5 hours while the temperature was maintained at reflux. The reaction progress was monitored by LCMS. The mixture was then concentrated by evaporation under vacuum using a rotary evaporator. The residue was triturated with 30 ml of Et2O to provide 1-methylpiperidine-2-carboxylic acid of as a white solid (0.5 g, 41%).

reactant | piperidine-2-carboxylic acid | 7.56 mmol, 975 mg | N1C(CCCC1)C(=O)O | C6H11NO2
reactant | HCHO | 2.0 ml | C=O | CH2O
solvent | HCOOH | 2.6 ml | C(=O)O | CH2O2
product | 1-methylpiperidine-2-carboxylic acid | CN1C(CCCC1)C(=O)O | C7H13NO2
